US04532080
Nickel benzylthiosulphate
Sodium benzylthiosulphate (57.5 g) and anhydrous NiCl2 (14.2 g) were mixed in absolute methanol (150 ml) at room temperature, and the mixture was stirred for 24 hours. It was then filtered, and methanol was evaporated from the filtrate. The residue was treated with water (50 ml) to displace the residual methanol, and the resulting solution was evaporated to dryness under vacuum, at a temperature not exceeding 50° C.

reactant | Sodium benzylthiosulphate | 57.5 g | C(C1=CC=CC=C1)OS(=S)(=O)[O-].[Na+]
reactant | NiCl2 | 14.2 g | Cl[Ni]Cl
solvent | methanol | 150 ml | CO | CH4O
product | Nickel benzylthiosulphate | C(C1=CC=CC=C1)OS(=S)(=O)[O-].[Ni+2].C(C1=CC=CC=C1)OS(=S)(=O)[O-] | InChI=1S/2C7H8O3S2.Ni/c2*8-12(9,11)10-6-7-4-2-1-3-5-7;/h2*1-5H,6H2,(H,8,9,11);/q;;+2/p-2
